US07598285B2
Ethyl 3-(3,5-dichlorophenyl)-3-oxopropanoate (4.2 g, 16.1 mmol) and {(1S)-1-[4-(ethoxycarbonyl)phenyl]ethyl}hydrazinium trifluoroacetate (5.2 g, 16.1 mmol) were heated in dry acetonitrile (100 ml) to 85° C. for 1 hr. The solvent was removed under reduced pressure, and the residue purified by column chromatography (SiO2, 20% ethyl acetate in hexanes) to give ethyl 4-{(1S)-1-[3-(3,5-dichlorophenyl)-5-oxo-4,5-dihydro-1H-pyrazol-1-yl]ethyl}benzoate as a white solid. NMR (500 MHz, CDCl3) δ: 1.38 (t, J=7.1 Hz, 3H); 1.78 (d, J=7.0 Hz, 3H); 3.55 (d, J 22.6 Hz, 1H); 3.60 (d, J=22.6 Hz, 1H); 4.36 (q, J=7.1 Hz, 2H); 5.57 (q, J=7.0 Hz, 1H); 7.39 (t, J=1.9 Hz, 1H); 7.50 (d, J=8.4 Hz, 2H). 7.52 (d, J=1.9 Hz, 2H); 8.02 (d, J=8.4 Hz, 2H). MS C20H18Cl2N2O3 Cald: 404.07; Obsd (M+1): 405.20.

reactant | Ethyl 3-(3,5-dichlorophenyl)-3-oxopropanoate | 16.1 mmol, 4.2 g | ClC=1C=C(C=C(C1)Cl)C(CC(=O)OCC)=O | C11H10Cl2O3
reactant | {(1S)-1-[4-(ethoxycarbonyl)phenyl]ethyl}hydrazinium trifluoroacetate | 16.1 mmol, 5.2 g | FC(C(=O)[O-])(F)F.C(C)OC(=O)C1=CC=C(C=C1)[C@H](C)[NH2+]N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | ethyl 4-{(1S)-1-[3-(3,5-dichlorophenyl)-5-oxo-4,5-dihydro-1H-pyrazol-1-yl]ethyl}benzoate | ClC=1C=C(C=C(C1)Cl)C1=NN(C(C1)=O)[C@@H](C)C1=CC=C(C(=O)OCC)C=C1 | C20H18Cl2N2O3
